US04758579
4. 2-[(4,5-Dimethoxy-2-pyridyl)methylsulfinyl]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole
A solution of the product in methylene chloride is obtained by the procedure described in Example 2 by oxidation of 0.76 g of 2-[(4,5-dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole with 19 ml of a 0.1M solution of m-chloroperoxybenzoic acid in 30 ml of methylene chloride at -40° C., after extraction. After drying the solution over magnesium sulfate, the drying agent is filtered off, the filtrate is concentrated and the residue is crystallized from methylene chloride/diisopropyl ether. 0.64 g (82% of theory) of the title compound is obtained in the form of colorless crystals of m.p. 160°-162° C. (decomp.).

reactant | 2-[(4,5-dimethoxy-2-pyridyl)methylthio]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole | 0.76 g | COC1=CC(=NC=C1OC)CSC1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C17H15F4N3O3S
reactant | m-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-[(4,5-Dimethoxy-2-pyridyl)methylsulfinyl]-5-(1,1,2,2-tetrafluoroethoxy)-1H-benzimidazole | COC1=CC(=NC=C1OC)CS(=O)C1=NC2=C(N1)C=CC(=C2)OC(C(F)F)(F)F | C17H15F4N3O4S
